US04081543
2-Allyl-5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinoline [process a)]
A mixture of 7.9 g of 5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinoline, 5.3 g of allyl bromide, 2.6 g of triethylamine in 50 ml of anhydrous chloroform is heated to the boil for 4.5 hours while stirring. 100 ml of water are added to the resulting solution after cooling to room temperature, the solution is made alkaline with 40% caustic soda solution, and the organic phase is separated off. The organic solution is washed neutral with water, dried over sodium sulphate and concentrated by evaporation. The residue is recrystallized twice from methanol. M.Pt. of the title compound: 74° - 76°.

reactant | 5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinoline | 7.9 g | NC1=C2CCNCC2=CC2=C1C=CC=C2 | C13H14N2
reactant | allyl bromide | 5.3 g | C(C=C)Br | C3H5Br
reactant | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
reactant | caustic soda | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 2-Allyl-5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinoline | C(C=C)N1CC2=CC3=C(C(=C2CC1)N)C=CC=C3 | C16H18N2
